US05998666
N-cycloheptyl-5-[benzyl(2-chloroethyl)amino]pentanamide (VIII, Z=Cl, R=cycloheptyl)
Methanesulfonyl chloride (0.78 g, 0.52 ml, 6.6 mmole) is added dropwise with stirring to a cooled solution of N-cycloheptyl-5-[benzyl(2-hydroxyethyl)amino]pentanamide (2.14 g, 6 mmole) in dichloromethane (20 ml) in the presence of triethylamine (0.69 g, 0.94 ml, 6.6 mmole). Agitation is maintained for 18 hours at 20° C. The reaction mixture is filtered with iced water (25 ml) then dried over magnesium sulfate. Filtration and evaporation of the solvent under reduced pressure give 2.2 g (98%) of the desired compound in the form of an oil.

reactant | Methanesulfonyl chloride | 6.6 mmole, 0.52 ml, 0.78 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-cycloheptyl-5-[benzyl(2-hydroxyethyl)amino]pentanamide | 6 mmole, 2.14 g | C1(CCCCCC1)NC(CCCCN(CCO)CC1=CC=CC=C1)=O | C21H34N2O2
reactant | triethylamine | 6.6 mmole, 0.94 ml, 0.69 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-cycloheptyl-5-[benzyl(2-chloroethyl)amino]pentanamide | 2.2 g, 98% | C1(CCCCCC1)NC(CCCCN(CCCl)CC1=CC=CC=C1)=O | C21H33ClN2O
